US07528134B2
2-bromo-N-(2,4,6-tribromo-3-methylphenyl)acetamide
To a solution of 3-methyl-2,4,6-tribromoaniline (4.36 g, 12.7 mmol) in toluene (40 mL) at room temperature was added bromoacetyl chloride (1.20 mL, 14.6 mmol) and the slurry heated to 100° C. for 24 h. The reaction was cooled, filtered, washed with and placed on a high vacuum pump to provide 2.88 g (49%) of the title compound as a white solid. mp 207-209° C.; 1H NMR (300 MHz, DMSO-d6) δ 2.52 (s, 3H) 4.07 (s, 2H) 8.05 (s, 1H) 10.38 (s, 1H); 13C NMR (100 MHz, DMSO-d6) δ 24.2, 28.6, 121.3, 123.4, 127.2, 134.3, 134.9, 137.6, 164.4; MS (DCI/NH3) m/e 482 (M+NH4+); Anal. calcd for C9H7Br4NO: C, 23.26; H, 1.52; N, 3.01. Found: C, 23.30; H, 1.45; N, 2.94.

reactant | 3-methyl-2,4,6-tribromoaniline | 12.7 mmol, 4.36 g | CC=1C(=C(N)C(=CC1Br)Br)Br | C7H6Br3N
reactant | bromoacetyl chloride | 14.6 mmol, 1.20 mL | BrCC(=O)Cl | C2H2BrClO
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-N-(2,4,6-tribromo-3-methylphenyl)acetamide | 2.88 g, 49% | BrCC(=O)NC1=C(C(=C(C=C1Br)Br)C)Br | C9H7Br4NO
